US08242260B2
To a solution of 3-bromo-2-fluoro-5-methylbenzoic acid (2.1 g, 9.01 mmol) in toluene (30 mL) and t-BuOH (15 mL), DIEA (1.9 mL, 10.8 mmol) and DPPA (2.4 mL, 11.3 mmol) were added and the reaction mixture was heated to and maintained at 120° C. for 24 hours. The reaction was allowed to cool to room temperature and concentrated to afford a brown oil. The oil was partitioned between diethyl ether and water and the resulting layers separated. The diethyl ether layer was washed with water, brine, dried (MgSO4) and concentrated. Purification by flash chromatography (SiO2, 0-5% EtOAc in heptane) provided tert-butyl 3-bromo-2-fluoro-5-methylphenylcarbamate (985 mg, 3.2 mmol, 36%) as a clear pale yellow oil: LCMS(m/z) 247.9 (MH+-t-butyl); tR=1.14 minutes; 1H NMR (300 MHz, CDCl3) δ 1.53 (s, 9H) 2.29 (s, 3H) 6.67 (br s, 1H) 6.98 (d, J=6.2 Hz, 1H) 7.88 (d, J=6.5 Hz, 1H).

reactant | 3-bromo-2-fluoro-5-methylbenzoic acid | 9.01 mmol, 2.1 g | BrC=1C(=C(C(=O)O)C=C(C1)C)F | C8H6BrFO2
reactant | DIEA | 10.8 mmol, 1.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DPPA | 11.3 mmol, 2.4 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | t-BuOH | 15 mL | CC(C)(C)O | C4H10O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-bromo-2-fluoro-5-methylphenylcarbamate | 3.2 mmol, 985 mg, 36% | BrC=1C(=C(C=C(C1)C)NC(OC(C)(C)C)=O)F | C12H15BrFNO2
